US04098892
1.33 g of melamine and 10 g of nicotinic acid anhydride are mixed and pulverized and then heated at 150° C for 20 minutes. After cooling, the mixture is added to 300 ml of water and boiled to remove the soluble matter. The residue is recrystallized from methanol to obtain 2,4,6-tris(nicotinamido)-s-triazine [trinicotinoylmelamine], melting point 276° - 278° C in a yield of 1.52 g.

reactant | melamine | 1.33 g | N1=C(N)N=C(N)N=C1N | C3H6N6
reactant | nicotinic acid anhydride | 10 g | C(C1=CN=CC=C1)(=O)OC(C1=CN=CC=C1)=O | C12H8N2O3
solvent | water | 300 ml | O | H2O
product | 2,4,6-tris(nicotinamido)-s-triazine | C(C1=CN=CC=C1)(=O)NC1=NC(=NC(=N1)NC(C1=CN=CC=C1)=O)NC(C1=CN=CC=C1)=O | C21H15N9O3
